US04266050
6-Chloro-1,2-dihydro-4-hydroxy-2-imino-1-methyl-N-[2-(4-morpholinyl)ethyl]-3-quinolinecarboxamide
To a solution of 0.92 g. (0.04 g. atoms) of sodium dissolved in 50 ml. of absolute ethanol was added 7.88 g. (0.04 mole) of 2-cyano-N-(2- morpholinoethyl)acetamide. The solvent was removed in a rotary evaporator in vacuo. Dimethyl formamide (50 ml.) was added to the residue followed by 8.46 g. (0.04 mole) of 5-chloro-N-methylisatoic anhydride. The reaction mixture was heated under reflux for 4 hours, cooled in ice and then poured into 1-liter of water. The resulting precipitate was collected and recrystallized from ethanol giving 5.6 g. of product, m.p. 211°-213° C.

reactant | sodium | 0.04 g | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
reactant | 2-cyano-N-(2- morpholinoethyl)acetamide | 0.04 mole | C(#N)CC(=O)NCCN1CCOCC1 | C9H15N3O2
reactant | 5-chloro-N-methylisatoic anhydride | 0.04 mole | ClC1=CC=C2C(C(=O)OC(N2C)=O)=C1 | C9H6ClNO3
reactant | water | 1-liter | O | H2O
product | 6-Chloro-1,2-dihydro-4-hydroxy-2-imino-1-methyl-N-[2-(4-morpholinyl)ethyl]-3-quinolinecarboxamide | ClC=1C=C2C(=C(C(N(C2=CC1)C)=N)C(=O)NCCN1CCOCC1)O | C17H21ClN4O3
